US07202363B2
N-(4-{4-amino-7-[(1E)-4-hydroxybut-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
A suspension of N-(4-{4-amino-7-[(1E)-4-(tetrahydro-2H-pyran-2-yloxy)but-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.05 g, 0.09 mmol) in methanol (3 mL) was treated with p-toluene sulfonic acid monohydrate (0.002 g, 0.0095 mmol). The reaction mixture was stirred for 15 hours at room temperature. Solvent was removed under reduced pressure. The crude material was purified by flash chromatography on silica gel using 10% methanol in dichloromethane to give 0.033 g (77%) of the title compound. 1H NMR (DMSO-d6, 400 MHz) δ 9.51 (s, 1H), 8.00–7.98 (m, 1H), 7.93 (s, 1H), 7.71–7.69 (m, 1H), 7.61–7.58 (m, 2H), 7.35–7.33 (m, 2H), 7.20 (m, 1H), 7.15–7.15 (m, 1H), 709–7.07 (m, 1H), 6.59–6.55 (m, 1H), 6.35–6.20 (m, 1H), 5.58 (brs, 2H), 4.65 (m, 1H), 4.04 (s, 3H), 3.91 (s, 3H), 3.57–3.54 (m, 2H), 2.42 (m, 2H); LCMS (conditions a) Rt 3.42 min (96%), M+ 499.3.

reactant | N-(4-{4-amino-7-[(1E)-4-(tetrahydro-2H-pyran-2-yloxy)but-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.09 mmol, 0.05 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CCOC2OCCCC2 | C33H34N4O4S
reactant | p-toluene sulfonic acid monohydrate | 0.0095 mmol, 0.002 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 3 mL | CO | CH4O
product | N-(4-{4-amino-7-[(1E)-4-hydroxybut-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.033 g, 77% | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CCO | C28H26N4O3S
